US06110922
(2-Bromophenyl)[2-chloro-4-(E-((thiomorpholin-1-yl)carbonyl)ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-bromothiophenol, 2-chlorobenzaldehyde with 3-chloro-4-fluoro-benzadehyde, and 6-amino-1-hexanol with thiomorpholine. 1H NMR (DMSO-d6, 300 MHz)68.10 (d, J=1.5 Hz, 1H), 7.80 (d, J=8.5 Hz, 1H), 7.64 (dd, J=8.1, 1.5 Hz, 1H), 7.3 1-7.48 (m, 4H), 7.36 (m, 1H), 7.26 (dd, J=8.1, 1.8 Hz, 1H), 7.05 (d J=8.1 Hz, 1H), 3.96 (m, 2H), 3.82 (m, 2H), 2.62 (m, 4H). HRMS calculated for C19H17N1O1S2Br1Cl1 : 455.9681. Observed: 455.9676.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-bromothiophenol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | (2-Bromophenyl)[2-chloro-4-(E-((thiomorpholin-1-yl)carbonyl)ethenyl)phenyl]sulfide | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)S1CCNCC1)Cl | C19H19BrClNOS2
